US08629137B2
Step 2: 6-(2-chloro-pyridine-4-carbonyl)-3,4-dimethyl-3H-benzoxazol-2-one
220 mg (1.94 mmol) potassium-tert-butoxide were added to 500 mg (1.73 mmol) 6-(2-chloro-pyridine-4-carbonyl)-4-methyl-3H-benzoxazol-2-one in 10.0 mL THF and the mixture was stirred for 30 min at RT. Then 0.220 mL (3.46 mmol) methyl iodide were added and the mixture was stirred overnight at RT. The reaction mixture was diluted with EtOAc and washed several times with saturated sodium chloride solution. The organic phase was dried on magnesium sulphate, filtered and evaporated down i. vac. The residue was triturated with DIPE and suction filtered.

reactant | potassium-tert-butoxide | 1.94 mmol, 220 mg | CC(C)([O-])C.[K+]
reactant | 6-(2-chloro-pyridine-4-carbonyl)-4-methyl-3H-benzoxazol-2-one | 1.73 mmol, 500 mg | ClC1=NC=CC(=C1)C(=O)C1=CC2=C(NC(O2)=O)C(=C1)C | C14H9ClN2O3
reactant | methyl iodide | 3.46 mmol, 0.220 mL | CI | CH3I
solvent | THF | 10.0 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-(2-chloro-pyridine-4-carbonyl)-3,4-dimethyl-3H-benzoxazol-2-one | ClC1=NC=CC(=C1)C(=O)C1=CC2=C(N(C(O2)=O)C)C(=C1)C | C15H11ClN2O3
